US07468443B2
In 6.8 mL of toluene was dissolved 0.85 g of 3-[2-(1-benzothiophen-5-yl)ethoxy]-1-(3-hydroxy-1-azetidinyl)-1-propanone, and to the solution were added 0.34 mL of pyridine, 0.02 g of 4-(dimethylamino)-pyridine and 0.93 g of trityl chloride, after which the resulting mixture was stirred at 50° C. for 3 hours. To the mixture was added 0.85 mL of N,N-dimethylformamide, followed by stirring at 50° C. for another 24 hours. Water and ethyl acetate were added to the reaction mixture and the organic layer was separated. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then distilled under reduced pressure to remove the solvent. The residue was purified by a column chromatography (eluent; toluene ethyl acetate=5:1 to 3:1) to obtain 1.15 g of 3-[2-(1-benzothiophen-5-yl)ethoxy]-1-[3-(trityloxy)-1-azetidinyl]-1-propanone as an oil.

reactant | 3-[2-(1-benzothiophen-5-yl)ethoxy]-1-(3-hydroxy-1-azetidinyl)-1-propanone | 0.85 g | S1C=CC2=C1C=CC(=C2)CCOCCC(=O)N2CC(C2)O | C16H19NO3S
reactant | pyridine | 0.34 mL | N1=CC=CC=C1 | C5H5N
reactant | trityl chloride | 0.93 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | N,N-dimethylformamide | 0.85 mL | CN(C=O)C | C3H7NO
solvent | toluene | 6.8 mL | C1(=CC=CC=C1)C | C7H8
catalyst | 4-(dimethylamino)-pyridine | 0.02 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 3-[2-(1-benzothiophen-5-yl)ethoxy]-1-[3-(trityloxy)-1-azetidinyl]-1-propanone | 1.15 g | S1C=CC2=C1C=CC(=C2)CCOCCC(=O)N2CC(C2)OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C35H33NO3S
